US04698337
A mixture of 7-[2-(2-formamidothiazol-4-yl)-2-(2-azidoethoxyimino)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 0.9 g.), conc. hydrochloric acid (0.2 g.), methanol (10 ml.) and tetrahydrofuran (4 ml.) was stirred at room temperature for 5 hours. After concentrating the resultant solution in vacuo, the residue was pulverized with a mixture of disopropyl ether and ethyl acetate (30 ml. 5:1 v/v). The precipitates were collected by filtration, washed with diisopropyl ether and dried to give 7-[2-(2-aminothiazol-4-yl)-2-(2-azidoethoxyimino)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid hydrochloride (syn isomer, 0.8 g.).

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-(2-azidoethoxyimino)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.9 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)=NOCCN=[N+]=[N-] | C18H16N10O6S4
reactant | hydrochloric acid | 0.2 g | Cl | ClH
reactant | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 7-[2-(2-aminothiazol-4-yl)-2-(2-azidoethoxyimino)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid hydrochloride | 0.8 g | Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)=NOCCN=[N+]=[N-] | InChI=1S/C17H16N10O5S4.ClH/c18-16-22-8(5-34-16)9(25-32-2-1-20-26-19)12(28)23-10-13(29)27-11(15(30)31)7(3-33-14(10)27)4-35-17-24-21-6-36-17;/h5-6,10,14H,1-4H2,(H2,18,22)(H,23,28)(H,30,31);1H/t10?,14-;/m1./s1
